US05624935
6-Chloro-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine
A procedure similar to that described in Preparation 59 was repeated, except that 3.00 g of 6-chloro-2-hydroxymethyl-3H-imidazo[4,5-b]pyridine (prepared as described in Preparation 63), 0.71 g of sodium hydride (as a 55% by weight dispersion in mineral oil), 1.03 ml of methyl iodide and 50 ml of dimethylformamide were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of ethyl acetate and methanol in ratios ranging from 1:0 to 50:1 by volume as the eluent, to give 0.87 g of the title compound, melting at 141°-142° C.

reactant | 6-chloro-2-hydroxymethyl-3H-imidazo[4,5-b]pyridine | 3.00 g | ClC=1C=C2C(=NC1)NC(=N2)CO | C7H6ClN3O
reactant | sodium hydride | 0.71 g | [H-].[Na+]
reactant | methyl iodide | 1.03 ml | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-Chloro-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine | ClC=1C=C2C(=NC1)N(C(=N2)CO)C | C8H8ClN3O
